### ISSUE TITLE
Scanner + grammar: fold indented continuations into sentences as sibling content fields (supersedes #69, does not merge 8ee294f)

### ISSUE THREAD

**Issue by tmurph** [tmurph/tree-sitter-lean#70]
## Title
Scanner + grammar: fold indented continuations into sentences as sibling `content` fields (supersedes #69, does not merge 8ee294f)

## Context

#69 proposed a one-integer scanner rule to decide, at each newline, whether
the next physical line continues the current sentence or starts a new one:
keep `sentence_col`, the column where the current sentence's first token
sits; if the next non-blank line's column is strictly greater, fold the
newline away as a continuation instead of ending the sentence. That rule is
right — verified multiple independent ways during design (see the design
doc reference below if useful, not required reading to do this issue).

The scanner-side implementation of that rule (`gary/fix-parser-errors` @
`8ee294f`) is **not being merged**. Its scanner.c is fine and this issue
reuses it unchanged. Its grammar.js is the problem: it folds the new
`_continuation` token into `_content` at the same level as an ordinary atom
separator, which flattens every physical line of a multi-line sentence into
one `content` node with no node-level boundary between rows. Concretely, a
`by`-block body that used to be three separate `line` nodes becomes one
`content` node with all three lines' atoms interleaved and no way to tell,
from the tree alone, where line 2 started. This issue is the corrected
grammar-side change: same scanner, different `_line_end`.

## The change

`src/scanner.c`: copy `8ee294f`'s scanner.c essentially as-is —
`Scanner { int32_t sentence_col; bool awaiting_start; }`, a third external
token `_continuation`, decided at `\n` by peeking the next physical line's
column without committing to it (`skip = true` so the peek doesn't extend
the token). Serialize/deserialize both fields; `length == 0` on deserialize
resets to initial state. No logic changes needed to this file — it is
already correct for what it's asked to do.

`grammar.js`:

- Add `$._continuation` to `externals`.
- Leave `_content` exactly as it is today (`repeat1($._atom)`). Do **not**
  add `_continuation` to it — that is the specific change that caused the
  flattening in 8ee294f.
- `_line_end` gets a fourth alternative. Because `_line_end` is a hidden
  rule (leading underscore), recursing through it splices its expansion
  into the *parent* node rather than creating a child node of its own — so
  this produces sibling `content` fields, not a nested chain:

  ```js
  _line_end: ($) =>
    choice(
      prec.right(seq($.semicolon, optional($._eol))),
      $._eol,
      $._eof,
      seq(
        $._continuation,
        optional(field("content", alias($._content, $.content))),
        $._line_end,
      ),
    ),
  ```

- `declaration`: drop `repeat($.line)`. A following physical line now only
  joins the declaration if `_line_end` itself glued it on via
  `_continuation`, decided by column, not by which keyword the next line
  happens to start with.
- `_command_head`: drop the `hash_command` admission. `declaration` no
  longer swallows blindly, so the workaround protecting `#check` from
  being swallowed is no longer needed for that reason.
- `_atom`: add `$.hash_command` to the choice list. Without this,
  removing `hash_command` from `_command_head` makes `#check` degrade all
  the way to `operator` + `identifier` instead of staying a single
  `hash_command` token — a regression in totality-preserving lexing the
  scanner change doesn't ask for.

## Expected tree shape (for the reviewer to check against)

```
theorem t : True := by
  constructor
  · exact trivial
  · exact trivial
```

should produce **one** `declaration_line` with **four** sibling `content`
fields, one per physical line, each with its own correct byte range —
not a nested chain, not one flat blob:

```
(declaration
  (declaration_line
    head: (head)
    content: (content ...)   ; theorem t : True := by
    content: (content ...)   ; constructor
    content: (content ...)   ; · exact trivial
    content: (content ...))) ; · exact trivial
```

## Known, accepted gap — do not try to fix in this issue

`hash_command` under a preceding declaration still moves from `command` to
`paragraph` category (same in every variant tried, including 8ee294f),
because the declaration genuinely stops one column short of it. That's
correct given `declaration`'s new stopping rule, not a regression to fix
here. It's a real behavior change for anything keying off node type — see
Issue 4.

## Baseline to measure against

`feat/2.0-rewrite` @ `426bd01`: STATE_COUNT 78, corpus 16/335, `test/golden/`
6/6 files clean (zero ERROR), throughput ~4000-4600 bytes/ms on
`test/golden/`. All 319 currently-failing corpus tests are 1.x's
specification, deliberately left failing pending later grammar work — do
not "fix" them as part of this issue; only add/update tests for the
sentence behavior described here.

A working prototype of exactly this change was built and measured during
design: STATE_COUNT 80 (+2 over baseline), SYMBOL_COUNT 95, zero ERROR on
all 6 golden files, throughput in the same noisy band as baseline (spread
between runs is wider than the gap between variants — don't read a
regression into a single run).

## Done when

- `test/corpus/line_structure.txt` is updated: existing tests whose shape
  changed get new expected trees (multi-line declaration bodies now show
  repeated sibling `content` fields, not a flat single `content` or a
  nested chain); new tests cover: a three-physical-line sentence showing
  three sibling `content` fields with correct independent byte ranges;
  `private def` directly under another declaration starting its own
  sentence; `#check` under a declaration starting its own `paragraph`; a
  blank line ending a sentence even when the next line is indented; a
  bullet-style body (`·` continuations) showing sibling lines compared
  against the sentence's start column, not against each other.
- `test/golden/` (all 6 files) still parses with zero ERROR nodes.
- STATE_COUNT does not regress past 82 (baseline 78 + the measured +2,
  plus slack for whatever the real corpus additions cost). If it moves
  further than that, say so in the PR rather than shipping past it
  silently.
- `tree-sitter fuzz --edits 10 --iterations 30-40` run against the new
  corpus tests, zero incremental-reparse divergence. This has *not* been
  done on the design-time prototype — do it for real before merging. A
  hidden-rule recursion producing repeated fields is a different
  incremental-reparse shape than either gary's flat repeat or a nested
  chain and hasn't been fuzz-checked yet.
- `queries/highlights.scm` (and any other `.scm` under `queries/`) checked
  against the new repeated-field shape. Most patterns matching `(content)`
  should be unaffected — a query pattern matches every occurrence
  regardless of how many sibling fields there are — but confirm rather
  than assume, and flag anything that assumed exactly one `content` per
  line-family node.

## Stop and report if

- Fuzzing turns up incremental-reparse divergence tied to the repeated-field
  recursion.
- STATE_COUNT moves by more than ~5 once real corpus tests are added (the
  design-time prototype only measured the grammar shape in isolation).
- The expected tree shape above doesn't match what you get — that's a sign
  the hidden-rule splicing isn't doing what this issue assumes, and is
  worth a design conversation before proceeding rather than working around
  it locally.

## Reference

Supersedes #69. Not merging `gary/fix-parser-errors` @ `8ee294f` (useful as
a reference for the scanner.c logic and as a worked example of the grammar
mistake to avoid).

**Comment by tmurph** [comment]
Implemented at dfd860f on gary/fix-parser-errors.

## What changed

Reused 8ee294f's scanner.c essentially verbatim (only renumbered the `#69` comment references to `#70`, since this issue is what actually lands it). The grammar-side fix is exactly the diff in the issue: `_content` stays `repeat1($._atom)`, untouched; `_line_end` gets a fourth alternative that recurses through `_continuation`, and because `_line_end` is hidden that recursion splices the extra `content` node in as a sibling field of the parent (`declaration_line`/`command_line`/`line`) rather than creating a nested child. `declaration` drops `repeat($.line)`, `_command_head` drops the `hash_command` admission, and `hash_command` moves into `_atom` so `#check` degrading out of `_command_head` doesn't also degrade past being a single token.

Confirmed the target shape against the actual build (not just the prototype):

```
$ cat t.lean
theorem foo : True := by
  trivial

def bar := 1
```
```
(source_file
  (declaration
    (declaration_line
      head: (head)
      content: (content (identifier) (operator) (identifier) (operator) (identifier))
      content: (content (identifier)))
    (blank_line))
  (declaration
    (declaration_line
      head: (head)
      content: (content (identifier) (operator) (number)))))
```

Two sibling `content` fields under one `declaration_line`, not a nested `line` chain and not one flattened blob. `theorem foo : True := by` is one `content`, `trivial` is the second, both direct children of `declaration_line`.

## Numbers

- STATE_COUNT 80 (baseline 78, prototype 80 — exact match, no extra states from the real corpus additions).
- SYMBOL_COUNT 95 (matches prototype).
- Corpus: 16/335 baseline → 20/339 after (16 baseline tests still pass unchanged in substance + 4 new tests for the sibling shape; the +4 test count is the 4 new corpus entries). 319 failing tests both before and after — same deliberately-left-failing 1.x spec set, confirmed by diffing failing-test names, not just counts.
- `test/golden/` — all 6 files, 0 ERROR nodes, before and after.
- Throughput: baseline median across 8 runs ≈ 4253 bytes/ms (range 3186–4340). After median across 8 runs ≈ 3911 bytes/ms (range 2358–4700). The spread within each side (~1100–2300 bytes/ms) is wider than the ~340 byte/ms gap between the medians, so this reads as noise, not a regression, consistent with what the issue predicted ("same noisy band"). Flagging the numbers explicitly rather than asserting confidence I don't have.

## Test changes (existing tests whose shape legitimately changed)

Three tests in `test/corpus/line_structure.txt` had their shape change, all as `_line_end`'s new sibling-splicing predicts:

1. **"Paragraphs are separated by blank lines"** — `trivial` used to be a nested `(line content: (content (identifier)))` under `declaration`; now it's a second `content:` field directly under `declaration_line`, and `blank_line` moved to be a sibling of `declaration_line` under `declaration` (unchanged from before, just worth noting it's not under `declaration_line`).
2. **"A declaration keyword ends the declaration before it, with no blank line"** — same nested-`line`-to-sibling-`content` change.
3. **"A hash command is a command, not part of the declaration above it"**, renamed to **"A hash command under a declaration starts its own paragraph"** — `#check f` used to parse as a `command` (`command_line` with `keyword: (hash_command)`). Now, since `hash_command` no longer has a seat in `_command_head`, it falls through to being an ordinary `paragraph`/`line` with `hash_command` as a leading atom in `content`. This is the accepted gap the issue calls out explicitly ("hash_command under a preceding declaration still moves from `command` to `paragraph`") — not something to fix here, just something the old test title asserted incorrectly once this landed, so I renamed it to describe the new (correct, intended) behavior instead of leaving a stale/misleading title.

Verified with `git diff` that no test's *input* text changed — only the titles/trees for these three, plus four wholly new entries appended at the end of the file.

## New tests added

- **"A three-line sentence shows three sibling content fields"** — `theorem t : True := by` / `  constructor` / `  exact trivial`, all under one `declaration_line`, three independent `content` siblings.
- **"A bullet-style body compares each continuation against the sentence's start column"** — the issue's own 4-line `by`/`constructor`/`· exact trivial`/`· exact trivial` example, confirming each `·` line joins because it's indented past the *sentence's* start column (0), not because it matches the previous line's column.
- **"A private def directly under a declaration starts its own sentence"** — `def f := 1` / `private def g := 2`; the second line sits at column 0, not greater than the first sentence's start column, so it correctly starts a new `declaration` rather than being swallowed as a continuation.
- **"A blank line ends a sentence even when the next line is indented"** — `theorem t : True := by` / `  trivial` / (blank) / `  more`; confirms the scanner's "a blank line never continues a sentence" rule fires even though `  more` is indented past the sentence's column, so `more` lands in a fresh `paragraph`, not glued onto the declaration.

## Queries — a real gap found and fixed, not just confirmed clean

Most of `highlights.scm` and `textobjects.scm` turned out to be fine as-is (patterns matching `(content)` anywhere naturally produce one capture per occurrence when a field repeats, which is the behavior both files already wanted). But two spots in `highlights.scm` had a real bug that fuzzing/corpus wouldn't catch, since it's a query-only concern:

```scheme
((declaration_line
   head: (head keyword: _ @_kw)
   content: (content . (identifier) @function))
 (#any-of? @_kw "def" "theorem" ...))
```

This pattern has no anchor tying `content` to `head`, so once `declaration_line` can carry multiple `content` fields, it matches *every* `content` field whose first atom is an identifier — not just the first one. Reproduced concretely:

```
def f := 1
  g
```

Before the fix, `tree-sitter query queries/highlights.scm` tagged both `f` *and* `g` as `@function` (`g` is just an atom on the continuation line, not a declaration name). Same issue existed in the three `command_line` keyword patterns (`namespace`/`set_option`/`variable` families). Fixed by anchoring `head: (head ...) . content: (content ...)`, which restricts the match to the `content` field immediately adjacent to `head` in the sibling list, i.e. only the first physical line. Verified the fix: `g` now correctly gets only `@variable`, not `@function`.

`textobjects.scm`'s function/class patterns had a different, harmless issue: they still referenced a `(line content: ...)* ` sibling from the old (never-merged) 8ee294f grammar shape, which can no longer exist since continuation content is now spliced directly into `declaration_line`. That trailing alternation was dead code (it always matches zero times) rather than wrong, but I removed it since a stale pattern referencing a node shape that no longer exists is exactly the kind of thing worth cleaning up rather than leaving as noise for the next reader. Verified both the function and class (`structure`/`inductive`/`class`) patterns still capture every physical line's content correctly after the simplification.

`rainbows.scm` has no field patterns touching `content` or line-family nodes at all, so nothing there needed checking.

## Fuzzing

`tree-sitter fuzz --edits 10 --iterations 30-40` against exactly the 20 currently-passing corpus tests (all of which live in `line_structure.txt` — it's the only file with any passing tests right now), across 4 separate runs with different random seeds (one at 40 iterations, three at 30). Zero incremental-reparse divergence in every run — no "N tests failed fuzzing" line, just the seed printed. (Running the fuzzer unfiltered against the whole corpus is not useful here: the other 319 tests fail their *initial* parse already, since they're 1.x spec not yet implemented, so the fuzzer immediately reports "incorrect initial parse" on all of them regardless of this change — that's expected and unrelated.)

## Manual probing (never-fail property)

Six hand-built edge cases, all zero ERROR nodes: empty file, an indentation-only line, a continuation landing back at column 0 (correctly ends the sentence and starts a fresh `paragraph`), a declaration keyword with nothing after it (`def` alone — parses to a `declaration_line` with just `head`, no `content`), a whitespace-only line acting as a blank line inside an indented run (correctly treated as blank, ends the sentence), and a file with no trailing newline (correctly closes via `_eof`).

## Alternatives considered

None beyond what's in the issue — the sibling-splicing-via-hidden-rule-recursion approach was specified precisely enough that there wasn't a real fork in the road here. The one judgment call was the `highlights.scm`/`textobjects.scm` audit: I could have left the (harmless) dead `(line)` alternation in `textobjects.scm` alone since it doesn't affect matching, but chose to remove it since a query fragment that can never fire, referencing a node shape that no longer exists in the grammar, is more likely to mislead a future reader than to protect against anything.

**Comment by tmurph** [comment]
Reviewed dfd860f. Amended on top at 1324bb3 (erica/review) — one real regression found and fixed; everything else checked out.

## Query audit (priority 1) — complete, not just the two he found

His `.` anchor fix (`head . content` in the 3 declaration-keyword and 3 command-keyword patterns) is exactly the right shape. Independently re-verified all 6 live, not just the `def f := 1` / `g` repro from his reply: `structure`/`constant`/`namespace`/`set_option`/`variable` families all correctly stop tagging at the first physical row once continuation adds more `content` siblings.

Audited the rest of both query files for the same latent class by direct construction, not by re-reading the query text:

- `(line content: (content ...))` patterns (projections, let/have/mut, synthetic holes, interpolated strings) are scoped to plain `line` (paragraph-only, pre-existing from #68), and match *inside* one `content` occurrence — unaffected by how many occurrences exist. Verified live across a continuation boundary (`let x := 1` / `Foo.bar` as two content siblings): both captures fire correctly on the second row.
- `textobjects.scm`'s `(paragraph (line content: (content) @function.inside)+)` correctly handles both shapes now possible: several spliced `content` siblings within one `line` (from #70) and genuinely separate `line` siblings (pre-existing, from `paragraph`'s own `repeat1($.line)`).
- The removed `(line content: ...)*` trailing patterns really were dead: `node-types.json` confirms `declaration`'s only possible children are `declaration_line`/`blank_line` — `line` is structurally unreachable there post-#70, not just empirically absent from the corpus.

No further query fixes needed.

## Sibling shape (priority 2) — found a real regression

`(declaration_line content: (content) @x)` matches every row correctly, nesting depth doesn't grow with row count, byte ranges are all correct — confirmed on 3+ row sentences and a bullet-style body.

But probing "where semicolon sits relative to repeated contents" turned up a genuine gap: `_line_end`'s semicolon branch (`prec.right(seq($.semicolon, optional($._eol)))`, from #67, untouched by this diff) never requests `$._continuation` — only `$._eol`. So a physical line immediately after a `;`-terminated line can never be glued as a continuation, no matter how deeply indented. Concretely:

```
theorem t : True := by
  exact h;
    more
```

Baseline 426bd01: one `declaration` (old blind `repeat($.line)` swallowed `more` regardless of how the previous line ended). dfd860f: `declaration` ends at the `;`, and `more` — at column 4, deeper than the declaration's own column 0 — becomes an orphan `paragraph`. That's a mechanical violation of the exact "stop only at dedent" rule this issue implements, not a judgment call, and it was invisible before #70 because containment used to be unconditional.

Checked whether this is actually #72's territory (`;`/`_continuation` disagreeing about the current sentence's start column) before touching anything, since #72 is explicitly scoped as measure-then-decide. It isn't: #72 is about `sentence_col` going stale after a mid-line `;` opens a new sentence at a new column, so a *later* continuation decision uses the wrong value. Confirmed #72's own repro (`exact trivial; exact trivial` / `done`) is untouched by my fix, exactly as expected, since I never touch scanner.c. My finding is different in kind — `_continuation` is never even offered as a candidate token at that position, regardless of what `sentence_col` holds, so no comparison happens at all, right or wrong.

Fix: `optional($._eol)` → `optional($._line_end)` in the semicolon branch. `_line_end`'s own alternatives already cover `_eol`/`_eof`/continuation-recursion, so this is a strict superset — the bare-trailing-`;`-at-EOF case (`def f := 1;` with no newline) still parses clean. Zero state cost (STATE_COUNT/SYMBOL_COUNT unchanged at 80/95), zero new conflicts at `tree-sitter generate`, byte-identical failing-test-name set (319, diffed directly against a fresh cache-cleared dfd860f build, not just counted).

## Corpus honesty (priority 3) and totality (priority 4)

Per the orchestrator's independent check (input bytes unchanged except the one intentional rename, scanner.c diff is comment-only vs #69), took those as verified and didn't redo them. Spot-checked a few of the new trees myself while probing (three-line sentence, bullet body, blank-line-ends-sentence) — all correct. Fuzzed lightly on top of my own fix (semicolon+continuation combinations, private-def-after-declaration, blank-line-after-continuation) — zero ERROR nodes throughout, golden files still 6/6 clean.

`#check` under a declaration falling to `paragraph` (#73) — confirmed genuinely the accepted, documented gap, not masking anything else.

## What I verified independently vs. took on trust

Independently: the query bug and its completeness (built and queried live inputs, not just read the diff), the semicolon/continuation gap (built, diffed against baseline 426bd01 and against dfd860f, distinguished from #72 by direct construction), STATE_COUNT/SYMBOL_COUNT and the failing-test-name diff after my own fix, golden files, `node --check` + prettier on grammar.js.

Took on trust (per orchestrator's independent verification, not re-derived): corpus input-byte-for-byte equality, the scanner.c-vs-#69 diff being comment-only, the original STATE_COUNT 78→80 / corpus 16/335→20/339 numbers.

**Comment by tmurph** [comment]
Done on `feat/2.0-rewrite` at 1324bb3, **pending merge to main**.

Gary's implementation in dfd860f, Erica's fix in 1324bb3.

| | baseline | merged |
| --- | --- | --- |
| `STATE_COUNT` | 78 | 80 |
| `SYMBOL_COUNT` | 94 | 95 |
| corpus | 16/335 | 20/339 |
| `test/golden/` | 6/6, no ERROR nodes | 6/6, no ERROR nodes |

Failing-test names byte-identical across baseline, implementation and fix, so
no 1.x test changed status. All 16 original corpus inputs survive
byte-for-byte; one test was renamed with identical input.

## Erica caught a regression that no test would have

`_line_end`'s semicolon branch was `prec.right(seq($.semicolon,
optional($._eol)))` and never offered `$._continuation`. That was harmless
while `declaration` still had its blind `repeat($.line)`. This issue removed
that, making containment depend entirely on `_line_end` recursing — at which
point a `;` at the end of a physical line permanently evicted everything
after it from the declaration, however deeply indented.

On `theorem t := by / exact h; / more`:

| | declaration span | the `more` line |
| --- | --- | --- |
| baseline 426bd01 | `[0,0]-[3,0]` | inside the declaration |
| dfd860f | `[0,0]-[2,0]` | evicted to a `paragraph` |
| 1324bb3 | `[0,0]-[3,0]` | sibling `content`, restored |

The fix is one word — `optional($._eol)` becomes `optional($._line_end)`, a
strict superset that keeps the bare-trailing-`;`-at-EOF case. Zero state
cost, no new conflicts.

She checked explicitly that this was not #72's territory before touching
anything, and confirmed #72's own repro is untouched by the fix: this was a
grammar-level "token never offered" gap, not a wrong column comparison.

## Gary caught a query bug that no test would have either

Once `content` repeats, `highlights.scm`'s keyword-adjacency patterns matched
a continuation row's first atom as if it were the declaration's name. Running
the old queries against the new parser reproduces it: in `def f := 1` / `  g`,
`g` is tagged `@function`. Six patterns needed a `.` anchor. Erica
independently re-verified all six live and audited the rest of both query
files for the same latent class, finding no further gaps.

Corpus tests do not exercise queries, and `tree-sitter test` only validates
that queries name nodes which exist — so nothing in the suite would have
flagged either of these. Both were found by probing.

Accepted behaviour change, tracked as #73: `#check f` under a declaration now
falls through to `paragraph` rather than `command`.
